US08314091B2
C: N-tert-Butyl-3-((4-(4-(3-(cyclopropylmethyl)ureido)-2-fluorobenzoyl)piperazin-1-yl)methyl)benzamide
4-Nitrophenyl chloroformate (59 mg, 0.29 mmol) was added to a solution of 3-((4-(4-amino-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-tertbutylbenzamide (100 mg, 0.24 mmol) in acetonitrile (10 mL). After stirring at room temperature for 1 hour, cyclopropylmethylamine (126 μL, 1.21 mmol) was added. After 2 hours stirring, the reaction was purified by strong cation exchange chromatography, eluting macroporous polystyrene sulfonic acid with 2N ammonia in methanol. The resulting solution was concentrated under vacuum and purified by basic reverse phase HPLC to afford the title compound as a white solid (10 mg).

reactant | 4-Nitrophenyl chloroformate | 0.29 mmol, 59 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-((4-(4-amino-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-tertbutylbenzamide | 0.24 mmol, 100 mg | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F | C23H29FN4O2
reactant | cyclopropylmethylamine | 1.21 mmol, 126 μL | C1(CC1)CN | C4H9N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-tert-Butyl-3-((4-(4-(3-(cyclopropylmethyl)ureido)-2-fluorobenzoyl)piperazin-1-yl)methyl)benzamide | 10 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)NC(=O)NCC1CC1)F)=O)=O | C28H36FN5O3
